US06297239B1
Step B: Preparation of 4-[1-Hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-2-(naphthalen-2-yloxy)-benzonitrile
4-(3-Methyl-3H-imidazole-4-carbonyl)-2-(naphthalen-2-yloxy)-benzonitrile (0.109 g, 0.308 mmol) was dissolved in anhydrous THF (5 mL) and a 3.0 M solution of MeMgBr (0.35 mL, 1.05 mmol) was added and stirred at RT. The reaction was quenched with NH4Cl after 1 h, concentrated, diluted with EtOAc, washed with satd. NaHCO3 solution, water, brine, dried (MgSO4) and concentrated to give the title compound. FT/ICR MS (M+1)=370.

reactant | 4-(3-Methyl-3H-imidazole-4-carbonyl)-2-(naphthalen-2-yloxy)-benzonitrile | 0.308 mmol, 0.109 g | CN1C=NC=C1C(=O)C1=CC(=C(C#N)C=C1)OC1=CC2=CC=CC=C2C=C1 | C22H15N3O2
reactant | MeMgBr | 1.05 mmol, 0.35 mL | C[Mg+].[Br-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[1-Hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-2-(naphthalen-2-yloxy)-benzonitrile | OC(C)(C=1N(C=NC1)C)C1=CC(=C(C#N)C=C1)OC1=CC2=CC=CC=C2C=C1 | C23H19N3O2
